US08236808B2
Step 4: (S)-3-(4-{3-[4-(3-Bromo-propyl)-phenoxy]-propyl}-phenoxy)-propane-1,2-diol
To a solution of (R)-4-(4-{3-[4-(3-bromo-propyl)-phenoxy]-propyl}-phenoxymethyl)-2,2-dimethyl-[1,3]dioxolane (5.0 g, 10.8 mmol) in DCM (50 mL) is added TFA (2.0 mL, 26.9 mmol) dropwise followed by water (2.0 mL) and the reaction mixture is stirred at RT overnight. The solvent is removed in vacuo and the residue is treated with aqueous sodium hydrogen carbonate solution. The mixture is extracted with EtOAc (3×200 mL) and the combined organic portions are washed with water, brine, dried over Na2SO4 and concentrated in vacuo. Recrystallizisation of the residue from diethyl ether-hexane affords the title compound as white solid.

reactant | (R)-4-(4-{3-[4-(3-bromo-propyl)-phenoxy]-propyl}-phenoxymethyl)-2,2-dimethyl-[1,3]dioxolane | 10.8 mmol, 5.0 g | BrCCCC1=CC=C(OCCCC2=CC=C(OC[C@H]3OC(OC3)(C)C)C=C2)C=C1 | C24H31BrO4
reactant | TFA | 26.9 mmol, 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 2.0 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-{3-[4-(3-Bromo-propyl)-phenoxy]-propyl}-phenoxy)-propane-1,2-diol | BrCCCC1=CC=C(OCCCC2=CC=C(OC[C@H](CO)O)C=C2)C=C1 | C21H27BrO4
